US08754054B2
To a solution of (6R,6aS,14aR)-1,6,8,14a-tetrahydroxy-11-((3R,4R,5R,6S)-4-hydroxy-3,5-dimethoxy-6-methyltetrahydro-2H-pyran-2-ylamino)-6a-methoxy-3-methyl-7,9,12,14-tetraoxo-5,6,6a,7,9,12,14,14a-octahydrobenzo[a]tetracene-2-carboxylic acid (56 mg, 0.082 mmol) in THF (2 mL) was added polystyrene carbodiimide (0.15 mg, 0.17 mmol) and 1-hydroxybenzotriazole hydrate (22 mg, 0.16 mmol), and then the reaction mixture was stirred at room temperature under nitrogen. After 15 min, pyrrolidine (11 mg, 0.16 mmol) was added and the reaction mixture was stirred at room temperature under nitrogen. After 5 h, the reaction mixture was filtered and concentrated under reduced pressure. The crude material was purified by preparative HPLC (10:90 acetonitrile/water to 60:40 acetonitrile/water with 0.05% TFA over 10 min, then isocratic). The resulting product was lyophilized from acetonitrile (3 mL) and water (1 mL) to give (6R,6aS,14aR)-1,6,8,14a-tetrahydroxy-11-((3R,4R,5R,6S)-4-hydroxy-3,5-dimethoxy-6-methyltetrahydro-2H-pyran-2-ylamino)-6a-methoxy-3-methyl-2-(pyrrolidine-1-carbonyl)-6,6a-dihydrobenzo[a]tetracene-7,9,12,14(5H,14aH)-tetraone (1.7 mg, 2.8%) as a mixture of diastereomers and as a dark red solid: 1H NMR (500 MHz, CD3OD) δ 8.10 (s, 1H), 6.64 (s, 1H), 6.17 (s, 0.3H), 6.01 (s, 0.7H), 4.96-4.87 (m, 2H), 3.74 (s, 3H), 3.64 (s, 1H), 3.57 (s, 3H), 3.52 (d, J=18.0 Hz, 3H), 3.46-3.39 (m, 6H), 3.26-3.20 (m, 1H), 3.08-3.02 (m, 2H), 2.08 (s, 3H), 1.93-1.87 (m, 4H), 1.28 (d, J=6.0 Hz, 2.1H), 1.22 (d, J=6.0 Hz, 0.9H); MS (ESI+) m/z 737 (M+H); HPLC 94.4% (AUC), tR 10.71 min.

reactant | (6R,6aS,14aR)-1,6,8,14a-tetrahydroxy-11-((3R,4R,5R,6S)-4-hydroxy-3,5-dimethoxy-6-methyltetrahydro-2H-pyran-2-ylamino)-6a-methoxy-3-methyl-7,9,12,14-tetraoxo-5,6,6a,7,9,12,14,14a-octahydrobenzo[a]tetracene-2-carboxylic acid | 0.082 mmol, 56 mg | OC1=C(C(=CC2=C1[C@@]1(C(C3=CC=4C(C(=CC(C4C(=C3C([C@@]1([C@@H](C2)O)OC)=O)O)=O)NC2O[C@H]([C@@H]([C@H]([C@H]2OC)O)OC)C)=O)=O)O)C)C(=O)O | C33H33NO15
reactant | 1-hydroxybenzotriazole hydrate | 0.16 mmol, 22 mg | O.ON1N=NC2=C1C=CC=C2
reactant | pyrrolidine | 0.16 mmol, 11 mg | N1CCCC1 | C4H9N
solvent | THF | 2 mL | C1CCOC1 | C4H8O
product | (6R,6aS,14aR)-1,6,8,14a-tetrahydroxy-11-((3R,4R,5R,6S)-4-hydroxy-3,5-dimethoxy-6-methyltetrahydro-2H-pyran-2-ylamino)-6a-methoxy-3-methyl-2-(pyrrolidine-1-carbonyl)-6,6a-dihydrobenzo[a]tetracene-7,9,12,14(5H,14aH)-tetraone | 1.7 mg, 2.8% | OC1=C(C(=CC2=C1[C@@]1(C(C3=CC=4C(C(=CC(C4C(=C3C([C@@]1([C@@H](C2)O)OC)=O)O)=O)NC2O[C@H]([C@@H]([C@H]([C@H]2OC)O)OC)C)=O)=O)O)C)C(=O)N2CCCC2 | C37H40N2O14
